US06248766B1
[(2-Diphenylmethylthio-4,5-dihydronaphtho[1,2-d]thiazol-8-yl)oxy]acetic Acid
Using ethyl[(2-mercapto-4,5-dihydronaphtho[1,2-d]thiazol-8-yl)oxy]acetate and bromodiphenylmethane, the procedure of Example 1 was otherwise repeated to synthesize the title compound. Yield 90%.

reactant | ethyl[(2-mercapto-4,5-dihydronaphtho[1,2-d]thiazol-8-yl)oxy]acetate | C(C)OC(COC1=CC=C2CCC3=C(N=C(S3)S)C2=C1)=O | C15H15NO3S2
reactant | bromodiphenylmethane | BrC(C1=CC=CC=C1)C1=CC=CC=C1 | C13H11Br
product | [(2-Diphenylmethylthio-4,5-dihydronaphtho[1,2-d]thiazol-8-yl)oxy]acetic Acid | Yield 90% | C1(=CC=CC=C1)C(SC=1SC2=C(N1)C1=CC(=CC=C1CC2)OCC(=O)O)C2=CC=CC=C2 | C26H21NO3S2
